US05134231
2-Methyl-3-phenylthiopropionic acid (4.60 g; 23.44 mmole) was dissolved in dry acetonitrile (20 ml), and 1,1-carbonyldiimidazole (4.56 g; 28.13 mmole) was added thereto with ice-cooling, and the resultant mixture was stirred at the same temperature for 30 minutes. The reaction mixture was dropwise added to a solution of malonic acid p-nitrobenzyl ester magnesium salt (17.53 g; 35 mmole) in dry acetonitrile (70 ml) at 50° C., and the resultant mixture was stirred at the same temperature for 30 minutes. After completion of the reaction, the reaction mixture was returned to room temperature and diluted with ethyl acetate. The organic layer was washed successively with lN hydrochloric acid, water, a saturated sodium bicarbonate solution, water and an aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography to give p-nitrobenzyl 3-oxo-4-methyl-5-phenylthiopentanoate.

reactant | 2-Methyl-3-phenylthiopropionic acid | 23.44 mmole, 4.60 g | CC(C(=S)O)CC1=CC=CC=C1 | C10H12OS
reactant | malonic acid p-nitrobenzyl ester magnesium salt | 35 mmole, 17.53 g | [Mg+2].[N+](=O)([O-])C1=CC=C(COC(CC(=O)[O-])=O)C=C1.C(CC(=O)[O-])(=O)OCC1=CC=C(C=C1)[N+](=O)[O-]
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
reactant | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | p-nitrobenzyl 3-oxo-4-methyl-5-phenylthiopentanoate | O=C(CC(=S)OCC1=CC=C(C=C1)[N+](=O)[O-])C(CC1=CC=CC=C1)C | C19H19NO4S
